US05399703
N-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenyl]-4-hexyloxybenzamide
In 20 ml of DMF was dissolved 1.20 g of N-[2-(2-cyanophenylthio)phenyl]-4-hexyloxybenzamide followed by addition of 0.36 g of sodium azide and 0.30 g of ammonium chloride, and the mixture was stirred at 120° C. for 3 hours. Then, the same amounts of sodium azide and ammonium chloride as above were added twice at an interval of 3 hours. The reaction mixture was then acidified with diluted hydrochloric acid and the resulting crystals were collected by filtration and washed with water. The crystals were dissolved in chloroform and dried over magnesium sulfate and the solvent was distilled off. The crystals thus obtained were recrystallized from ethyl acetate-n-hexane to give 1.1 g of the title compound as white crystals, m.p. 154°-156° C.

reactant | N-[2-(2-cyanophenylthio)phenyl]-4-hexyloxybenzamide | 1.20 g | C(#N)C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCCC)=O | C26H26N2O2S
reactant | sodium azide | 0.36 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.30 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenyl]-4-hexyloxybenzamide | 1.1 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCCC)=O | C26H27N5O2S
